US06969710B2
2,5-Dimethoxy-N-[2-[(phenylsulfonyl)amino]-4-(1-piperazinyl)phenyl]benzenesulfonamide was synthesized from of N-{2-amino-5-(4-t-butyloxycarbonyl-piperazinyl)-phenyl}benzenesulfonamide and 2,5-dimethoxybenzenesulfonylchloride (57 mg, 0.239 mmol) according to general method 3 to give 60 mg of a purple solid. MS (posES-FIA) m/z=Found: 533.1. Calcd: 533.14. 1H-NMR δ 7.68-7.48 (m, 5H), 7.16-7.05 (m, 4H), 6.69 (dd, 1H), 6.42 (d, 1H), 4.03 (s, 3H), 3.69 (s, 3H), 3.26-3.10 (m, 8H).

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-piperazinyl)-phenyl}benzenesulfonamide | NC1=C(C=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=CC=C1 | C21H28N4O4S
reactant | 2,5-dimethoxybenzenesulfonylchloride | 0.239 mmol, 57 mg | COC1=C(C=C(C=C1)OC)S(=O)(=O)Cl | C8H9ClO4S
product | 2,5-Dimethoxy-N-[2-[(phenylsulfonyl)amino]-4-(1-piperazinyl)phenyl]benzenesulfonamide | COC1=C(C=C(C=C1)OC)S(=O)(=O)NC1=C(C=C(C=C1)N1CCNCC1)NS(=O)(=O)C1=CC=CC=C1 | C24H28N4O6S2
